US04113951
First step: 5-amino 4,7-dimethoxy 6-piperidinoethoxy benzofuran dichlorhydrate. Code number: 740 778
A solution of 25.1 g (0.1 mole) of 5-acetamido 4,7-dimethoxy 6-piperidinoethoxy benzofuran were brought to reflux for 10 hours in 200 ml of 2 N hydrochloric acid. Then it was neutralized with concentrated soda, extracted with ethyl acetate, the solvent was evaporated, the residue was taken up again in acetone and 30 ml of 7 N hydrochloric ethanol were added. It was filtered and recrystallized in ethanol.

reactant | 5-acetamido 4,7-dimethoxy 6-piperidinoethoxy benzofuran | 0.1 mole, 25.1 g | C(C)(=O)NC=1C(=C(C2=C(C=CO2)C1OC)OC)OCCN1CCCCC1 | C19H26N2O5
solvent | hydrochloric acid | 2 N, 200 ml | Cl | ClH
product | 5-amino 4,7-dimethoxy 6-piperidinoethoxy benzofuran | NC=1C(=C(C2=C(C=CO2)C1OC)OC)OCCN1CCCCC1 | C17H24N2O4
